US07449466B2
Production Example 3 was repeated except that 1-(4-methoxyphenyl)-piperazine dihydrochloride and isovaleryl chloride were replaced with 1-(4-benzyloxy-3-fluorophenyl)piperazine (286 mg) and diethylcarbamoyl chloride (139 μL), respectively, to provide crude N,N-diethyl-4-(4-benzyloxy-3-fluorophenyl)-1-piperazinecarboxamide (370 mg).

reactant | 1-(4-methoxyphenyl)-piperazine dihydrochloride | Cl.Cl.COC1=CC=C(C=C1)N1CCNCC1
reactant | isovaleryl chloride | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | 1-(4-benzyloxy-3-fluorophenyl)piperazine | 286 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1CCNCC1)F | C17H19FN2O
reactant | diethylcarbamoyl chloride | 139 μL | C(C)N(C(=O)Cl)CC | C5H10ClNO
product | N,N-diethyl-4-(4-benzyloxy-3-fluorophenyl)-1-piperazinecarboxamide | 370 mg | C(C)N(C(=O)N1CCN(CC1)C1=CC(=C(C=C1)OCC1=CC=CC=C1)F)CC | C22H28FN3O2
